US06307047B1
2-(3,4-Difluorophenyl)-4-(2-hydroxy-2-methyl-1-propoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 178, substituting 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 2-methyl-1,2-propanediol in place of 2-ethyl-1-hexanol (yield: 55 mg, 31%). 1H NMR (300 MHz, DMSO-d6) δ 0.97 (s, 6H), 3.30 (s, 3H), 4.20 (s, 2H), 4.54 (s, 1H), 7.52 (m, 1H), 7.62 (m, 1H), 7.81 (m, 1H), 7.98 (d, J=9 Hz, 2H), 8.05 (d, J=9 Hz, 2H), 8.21 (s, 1H); MS (APCI+) m/z 451 (M+H)+; (APCI−) m/z 485 (M+Cl)−; Anal. calc. for C21H20F2N2O5S: C, 55.99; H, 4.47; N, 6.21. Found: C, 56.00; H, 4.48; N, 5.87.

reactant | 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H18F2N2O6S2
reactant | 2-methyl-1,2-propanediol | CC(CO)(C)O | C4H10O2
product | 2-(3,4-Difluorophenyl)-4-(2-hydroxy-2-methyl-1-propoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCC(C)(C)O)C1=CC=C(C=C1)S(=O)(=O)C | C21H20F2N2O5S
